US07723378B2
5,5-Diethyl-3-methylsulfanyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid ethyl ester is treated with LiOH as described in Example K to give 5,5-diethyl-3-methylsulfanyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid; LC-MS: tR=1.06 min, [M+1]=285.0; 1H NMR (CDCl3): δ 2.96 (t, J=6.4 Hz, 2H), 2.54 (s, 3H), 2.31 (s, 2H), 1.55 (t, J=6.4 Hz, 2H), 1.37-1.20 (m, 4H), 0.83 (t, J=7.3 HZ, 6H).

reactant | 5,5-Diethyl-3-methylsulfanyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=C2C1CCC(C2)(CC)CC)SC | C16H24O2S2
reactant | LiOH | [Li+].[OH-]
product | 5,5-diethyl-3-methylsulfanyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid | C(C)C1(CC=2C(=C(SC2SC)C(=O)O)CC1)CC | C14H20O2S2
